US08168673B2
To a solution of n-butyllithium (7.35 mL of a 1.6 M solution in hexanes, 11.7 mmol) in dry THF (15 mL) at −78° C. was added dropwise over 10 minutes a solution of (2-bromophenyl)(cyclobutyl)sulfane (1.19 g, 4.89 mmol) in dry THF (15 mL) and the resulting solution stirred at −78° C. for 30 minutes. Anhydrous DMF (1.14 mL, 14.7 mmol) was then added, and the solution stirred at −78° C. for 5 minutes, before allowing to warm to room temperature and stirring for a further 1 hour. Water was then added, and the volatiles removed in vacuo, before extracting the mixture with ethyl acetate (×3). The combined organics were washed with brine, then dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified using flash column chromatography on silica gel (eluting with a gradient of 0 to 5% ethyl acetate) to afford 2-(cyclobutylthio)benzaldehyde (450 mg, 2.34 mmol, 48%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | (2-bromophenyl)(cyclobutyl)sulfane | 4.89 mmol, 1.19 g | BrC1=C(C=CC=C1)SC1CCC1 | C10H11BrS
reactant | DMF | 14.7 mmol, 1.14 mL | CN(C)C=O | C3H7NO
reactant | Water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(cyclobutylthio)benzaldehyde | 2.34 mmol, 450 mg, 48% | C1(CCC1)SC1=C(C=O)C=CC=C1 | C11H12OS
